US04971982
11 g of 2-iodopyridine-5-carboxylic acid were suspended in 300 ml of dichloromethane and 4 8 g of benzyl alcohol, 10 g of dicyclohexylcarbodiimide and 100 mg of 4-dimethylaminopyridine were added. The mixture was stirred at room temperature and, after 2 hours, filtered. The filtrate was evaporated and the residue was chromatographed on silica gel using firstly ethyl acetate/petroleum ether (1:9) and then ethyl acetate/petroleum ether (1:6) for the elution. There were obtained 12.2 g of benzyl 2-iodopyridine-5-carboxylate which was used without further purification.

reactant | 2-iodopyridine-5-carboxylic acid | 11 g | IC1=NC=C(C=C1)C(=O)O | C6H4INO2
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
reactant | dicyclohexylcarbodiimide | 10 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 100 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | benzyl 2-iodopyridine-5-carboxylate | 12.2 g | IC1=NC=C(C=C1)C(=O)OCC1=CC=CC=C1 | C13H10INO2
